US04125714
A mixture of 28.3 g. (0.1 mole) of 6-(3,4-methylenedioxyphenyl)-3-hexenyl bromide and 21 g. (0.15 mole) of lithium ethylacetoacetate in 200 ml. of dimethylformamide was heated under nitrogen with stirring at 55°-60° C. for 2 days. The reaction mixture was concentrated in vacuo and the residue partitioned between water and methylene dichloride. The methylene dichloride layer was washed with 5% aqueous sulfuric acid, water, 5% aqueous sodium bicarbonate and water, and dried over anhydrous magnesium sulfate. The ether solution was concentrated to afford ethyl 2-acetyl-8-(3,4-methylenedioxyphenyl)-5-octenoate as a yellow oil, used directly in the following reaction.

reactant | 6-(3,4-methylenedioxyphenyl)-3-hexenyl bromide | 0.1 mole | C1OC=2C=C(C=CC2O1)CCC=CCCBr | C13H15BrO2
reactant | lithium ethylacetoacetate | 0.15 mole | C(C)OC(CC(=O)C)=O.[Li]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-acetyl-8-(3,4-methylenedioxyphenyl)-5-octenoate | C(C)(=O)C(C(=O)OCC)CCC=CCCC1=CC2=C(C=C1)OCO2 | C19H24O5
